US08048887B2
5-(2-(2-Aminoethoxy)-5-(isobutylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
To a 2 dram vial was added 2-(4-fluorophenyl)-5-(2-hydroxy-5-(isobutylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide (92.0 mg, 0.20 mmol) in 3 mL of DMF along with 2-(2-bromoethyl)isoindoline-1,3-dione (152 mg, 0.600 mmol) and DBU (0.120 mL, 0.800 mmol). The vial was capped and shaken at 75° C. over night. The crude reaction mixture was then evacuated to near dryness, taken up in 6 mL of acetonitrile and purified using a Shimadzu preparative HPLC employing acetonitrile/water/0.1% TFA where solvent A was 10% acetonitrile/90% water/0.1% trifluoroacetic acid and solvent B was 10% water/90% acetonitrile/0.1% trifluoroacetic acid with a Waters Sunfire 5 μm C18 30×100 mm column at a gradient of 40-100% B and a flow rate of 40 mL/min. over 10 minutes with a 10 minute hold to give 5-(2-(2-(1,3-dioxoisoindolin-2-yl)ethoxy)-5-(isobutyl carbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide as a white solid (30 mgs, 23% yield). 1H NMR (400 MHz, DMF-d7) δ ppm 0.93 (d, J=6.78 Hz, 6H), 1.86-1.99 (m, 1H), 2.97 (d, J=4.77 Hz, 3H), 3.14-3.26 (m, 2H), 4.06 (t, J=5.90 Hz, 2H), 4.47 (t, J=5.90 Hz, 2H), 7.33 (d, J=9.29 Hz, 1H), 7.36-7.49 (m, 4H), 7.74-7.86 (m, 5H), 7.97-8.02 (m, 2H), 8.11-8.17 (m, 2H), 8.20 (d, J=4.27 Hz, 1H), 8.42 (s, 1H). LCMS m/z 634.25 (M+H), Rt 2.408 min. HPLC Rt 9.339 min. (Sunfire C18), 100% purity and 11.696 min. (Gemini C18), 98.9% purity. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: Waters Sunfire 5 μm C18, 4.6×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 3 minutes with a 1 minute hold at a rate of 4 mL/minute. HPLC purity was determined using a Shimadzu analytical LC at 254 nm and 256 nm with a Waters Sunfire C18 3.5 μm 4.6×150 mm column employing water/acetonitrile/0.1% TFA with a gradient of 30-100% B (B=95% HPLC grade acetonitrile/0.1% trifluoroacetic acid/5% HPLC grade water), (A=95% HPLC grade water/0.1% trifluoroacetic acid/5% HPLC grade acetonitrile), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. The HPLC purity was then confirmed with an orthogonal solvent system and column using a Shimadzu analytical LC with a Waters XBridge phenyl C18 3 μm 4.6×150 mm column employing water/methanol/10 mM ammonium bicarbonate with a gradient of 30-100% B (B=95% HPLC grade methanol/10 mM ammonium bicarbonate/5% HPLC grade water), (A=95% HPLC grade water/10 mM ammonium bicarbonate/5% HPLC grade methanol), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. To a 100 mL RBF fitted with a reflux condenser was added 5-(2-(2-(1,3-dioxoisoindolin-2-yl)ethoxy)-5-(isobutylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (26.4 mg, 0.042 mmol) in methanol and anhydrous hydrazine (1.308 μL, 0.042 mmol) solution (Aldrich, 215155-50G). The flask was placed in a pre-equilibrated oil bath and refluxed for 2 hours. The crude product was concentrated on the rotovap to remove methanol, diluted with dichloromethane, washed with a 0.5M sodium hydroxide solution and extracted. The solvent was removed and the crude product was purified using the Shimadzu preparative HPLC employing acetonitrile/water/0.1% TFA mentioned above with a gradient of 20-100% B to give (13 mgs, 58%) of a white solid. 1H NMR (400 MHz, CD3OD) δ ppm 0.94 (d, J=6.78 Hz, 6H), 1.91 (dt, J=13.55, 6.78 Hz, 1H), 2.91 (s, 3H), 3.18 (d, J=7.28 Hz, 2H), 3.33 (t, J=5.02 Hz, 2H), 4.30 (t, J=5.14 Hz, 2H), 7.21 (d, J=8.78 Hz, 1H), 7.26 (t, J=8.78 Hz, 2H), 7.50-7.59 (m, 1H), 7.60-7.68 (m, 1H), 7.81-8.00 (m, 5H). LCMS m/z 504.31 (M+H), Rt 1.538 min. HPLC Rt 6.435 min. (Sunfire C18), 97.1% purity and 11.376 min. (XBridge phenyl C18), 100% purity.

reactant | 5-(2-(2-(1,3-dioxoisoindolin-2-yl)ethoxy)-5-(isobutylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.042 mmol, 26.4 mg | O=C1N(C(C2=CC=CC=C12)=O)CCOC1=C(C=C(C=C1)C(NCC(C)C)=O)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C37H32FN3O6
reactant | hydrazine | 0.042 mmol, 1.308 μL | NN | H4N2
solvent | methanol | CO | CH4O
solvent | methanol | 10 mM | CO | CH4O
solvent | water | 10 mM | O | H2O
solvent | water methanol | 10 mM | O.CO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water acetonitrile | O.C(C)#N
product | 5-(2-(2-Aminoethoxy)-5-(isobutylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 13 mgs, 58% | NCCOC1=C(C=C(C=C1)C(NCC(C)C)=O)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C29H30FN3O4
